US07399759B2
tert-Butyl 3-[2-(7-chloro-4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propanoate
4-Chlorothiosalicylic acid (2.3 g, 12.2 mmol) and tert-butyl 3-(2-cyano-4-pyridyl)propanoate (1.4 g, 6.0 mmol) were dissolved in pyridine (20 ml), and the mixture was refluxed for 16 hrs. The solvent was evaporated and the residue was subjected to a silica gel column chromatography. The fraction eluted with hexane-ethyl acetate (2:1, v/v) were collected, concentrated and recrystallized from hexane-tetrahydrofuran to give the titled compound (1.3 g, 52%) as white crystals.

reactant | 4-Chlorothiosalicylic acid | 12.2 mmol, 2.3 g | ClC=1C=C(C(C(=O)O)=CC1)S | C7H5ClO2S
reactant | tert-butyl 3-(2-cyano-4-pyridyl)propanoate | 6.0 mmol, 1.4 g | C(#N)C1=NC=CC(=C1)CCC(=O)OC(C)(C)C | C13H16N2O2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 3-[2-(7-chloro-4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propanoate | 1.3 g, 52% | ClC1=CC2=C(C(N=C(S2)C2=NC=CC(=C2)CCC(=O)OC(C)(C)C)=O)C=C1 | C20H19ClN2O3S
